US06465490B1
{1-[2-(4-Fluoro-phenyl)-ethyl]-piperidin-4-yl}-(2-methoxy-3-triisopropylsilanyloxy-phenyl)-methanol
To a solution of 2-(4-Fluoro-phenyl)-1-[4-(2-methoxy-3-triisopropylsilanyloxy-benzoyl)-piperidin-1-yl]-ethanone, Example 1A (262 g, 0.496 mol) in toluene (3.8 L) at −38° C. add (R)-methyloxoazaborolidine (150 mL, 0.15 mol, of 1M solution in toluene), follow with the addition of borane dimethylsulfide complex (750 mL of a 2M solution in toluene, 1.5 mol), over a 2 h period at −30° C. Stir between −25° C. to -28° C. overnight and then allow the reaction to warm to ambient temperature over a 2 h period. Slowly add MeOH (500 mL) over a1 h period and then concentrate the solution to obtain 363 g of yellow oil. Add MeOH (1.8 L) to the oil and concentrate under reduced pressure at 80° C. to obtain 341 g of a yellow oil. Purify the oil by plug filtration through silica gel eluting with 1:1 MeOHI/CHCI3. Combine and concentrate the desired fractions to obtain 250 g of product. Further purify the product by column chromatography over silica gel eluting with 1:3 EtOAc/hexane (20 L), 1:1 EtOAc/hexane (20 L) and 1:1 CHCl3/MeOH (40 L). Collect and concentrate like fractions to obtain 214 g of oil. Dissolve the oil in CHCl3 (500 mL)/toluene (600 mL), dry (MgSO4) and concentrate to obtain 207 g of the title compound as a foam.

reactant | 2-(4-Fluoro-phenyl)-1-[4-(2-methoxy-3-triisopropylsilanyloxy-benzoyl)-piperidin-1-yl]-ethanone | FC1=CC=C(C=C1)CC(=O)N1CCC(CC1)C(C1=C(C(=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C)OC)=O | C30H42FNO4Si
solvent | toluene | 3.8 L | C1(=CC=CC=C1)C | C7H8
product | {1-[2-(4-Fluoro-phenyl)-ethyl]-piperidin-4-yl}-(2-methoxy-3-triisopropylsilanyloxy-phenyl)-methanol | 363 g | FC1=CC=C(C=C1)CCN1CCC(CC1)C(O)C1=C(C(=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C)OC | C30H46FNO3Si
